US05798354
(a) Synthesis of ethyl 2-[3-(1-Adamantyl)-4-methoxyphenylethynyl]-4-thiophenecarboxylate
In a manner analogous to Example 1(b) above, by reaction of 3.2 g (12 mmol) of 3-(1-adamantyl)-4-methoxyphenylacetylene with 2.8 g (12 mmol) of ethyl 2-bromo-4-thiophenecarboxylate, there were obtained, after chromatography on a silica column eluted with a mixture of hexane and ethyl acetate, 2.4 g (48%) of the expected ethyl ester with the melting point 88°-90° C.

reactant | 3-(1-adamantyl)-4-methoxyphenylacetylene | 12 mmol, 3.2 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C#C | C19H22O
reactant | ethyl 2-bromo-4-thiophenecarboxylate | 12 mmol, 2.8 g | BrC=1SC=C(C1)C(=O)OCC | C7H7BrO2S
product | ethyl 2-[3-(1-Adamantyl)-4-methoxyphenylethynyl]-4-thiophenecarboxylate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C#CC=2SC=C(C2)C(=O)OCC | C26H28O3S
